US05488055
A mixture of 1-ethyl-4-chloro-6-bromo-1H-pyrazolo[3,4-b]quinoline (6.5 g, 0.021 mol), cyclohexanemethylamine (5.46 g, 0.042 mol) and DMSO (20 ml) was heated at 110° C. overnight. The reaction mixture was cooled, poured into water and basified with NH4OH. The mixture was extracted with CH2Cl2 (2×100 ml) and the combined CH2Cl2 extracts were washed with brine, then evaporated to about 20 ml. The solution was purified by column chromatography on silica gel eluting with ethyl acetate to afford 8.0 g (98.8%) of 1-ethyl-6-bromo-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine, m.p. 158°-160° C.

reactant | 1-ethyl-4-chloro-6-bromo-1H-pyrazolo[3,4-b]quinoline | 0.021 mol, 6.5 g | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2Cl)Br | C12H9BrClN3
reactant | cyclohexanemethylamine | 0.042 mol, 5.46 g | C1(CCCCC1)CN | C7H15N
reactant | DMSO | 20 ml | CS(=O)C | C2H6OS
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
product | 1-ethyl-6-bromo-N-(cyclohexylmethyl)-1H-pyrazolo[3,4-b]quinolin-4-amine | 8.0 g, 98.8% | C(C)N1N=CC=2C1=NC1=CC=C(C=C1C2NCC2CCCCC2)Br | C19H23BrN4
